US05262568
A mixture of N-(m-ethylphenyl)-N-ethylcyanamide (500 mg, 2.86 mmol) and 1-aminonaphthalene hydrochloride (520 mg, 2.86 mmol) was heated in a preheated oil bath at 160° C. for 2 hours and then allowed to cool to room temperature. The resulting solid was taken in dichloromethane and washed with 10% NAOH solution. The organic layer was concentrated and the resulting residue was flash chromatographed on silica gel to give N-(1-naphthyl)-N'-(m-ethylphenyl)-N'-ethylguanidine (610 mg, 67%) as a light brown liquid.

reactant | N-(m-ethylphenyl)-N-ethylcyanamide | 2.86 mmol, 500 mg | C(C)C=1C=C(C=CC1)N(C#N)CC | C11H14N2
reactant | 1-aminonaphthalene hydrochloride | 2.86 mmol, 520 mg | Cl.NC1=CC=CC2=CC=CC=C12
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(1-naphthyl)-N'-(m-ethylphenyl)-N'-ethylguanidine | 610 mg, 67% | C1(=CC=CC2=CC=CC=C12)NC(=N)N(CC)C1=CC(=CC=C1)CC | C21H23N3
